US07531545B2
A solution of phenol (0.30 g, 3.1 mmol) in DMF (10 mL) was treated with cesium carbonate (1.41 g, 4.3 mmol) and stirred for 15 min. 2-Chloro-5-nitro pyridine (0.5 g, 2.9 mmol) was added, and the reaction mixture was stirred and monitored via TLC. After the reaction was complete, the reaction mixture was treated with water, extracted into EtOAc, and the organic extract washed with 1N NaOH and brine, dried (Na2SO4) and concentrated to yield 4-methyl-5-nitro-2-phenoxypyridine as a solid.

reactant | phenol | 3.1 mmol, 0.30 g | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 4.3 mmol, 1.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Chloro-5-nitro pyridine | 2.9 mmol, 0.5 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-methyl-5-nitro-2-phenoxypyridine | CC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1 | C12H10N2O3
